US08791134B2
4-Nitrosotetrahydro-2H-pyran-4-yl acetate was prepared according to General Method 2. A solution of tetrahydro-pyran-4-one oxime (3.0 g, 26.1 mmol) in DCM (50 ml) was added dropwise to a solution of lead tetraacetate (11.57 g, 26.1 mmol) in DCM (100 ml) at 0° C. A blue color gradually appears on addition of the oxime solution. Upon complete addition (1 hour) the reaction was allowed to warm to ambient temperature and stirring was continued for a further 2-3 hours. The reaction was quenched by the addition of water, the phases separated and the organics dried over Na2SO4 and concentrated in vacuo to afford 4-nitrosotetrahydro-2H-pyran-4-yl acetate which was purified by column chromatography on silica gel with a gradient of pentane:EtOAc as the eluent to afford the title compound as a blue oil in 56% yield. 1H NMR (250 MHz, CHLOROFORM-d) δ1.84 (2H, m), 2.18 (2H, m), 2.25 (3H, s), 3.71 (2H, m), 4.03 (2H, m).

reactant | tetrahydro-pyran-4-one oxime | 26.1 mmol, 3.0 g | O1CCC(CC1)=NO | C5H9NO2
reactant | lead tetraacetate | 26.1 mmol, 11.57 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-nitrosotetrahydro-2H-pyran-4-yl acetate | C(C)(=O)OC1(CCOCC1)N=O | C7H11NO4
